US05481036
71.6 mg of lithium chloride was suspended in 5 ml of dry THF under an argon atmosphere, and 426 mg of ethyl 2-diethylphosphonobutanoate dissolved in 0.6 ml of dry THF was added thereto under stirring. The mixture was stirred at room temperature for 5 minutes, and then 323 mg of 1,8-diazabicyclo{5,4,0]-7-undecene (hereinafter referred to simply as DBU) was added thereto in the form of a 50° dry THF solution, and the mixture was stirred at room temperature for 10 minutes. Then, 450 mg of (4S,5R)-3-benzyloxycarbonyl-2,2-dimethyl-5-formyl-4-isobutyloxazolidine dissolved in 1.0 ml of dry THF was added thereto, and the mixture was stirred at room temperature overnight. The reaction solution was cooled to 0° C. and neutralized with 1N hydrochloric acid. Then, the solution was extracted three times with ethyl acetate. The organic layer was washed with water and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=10/1) to obtain 518 mg of ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-ethyl-2-propenoate as colorless oily substance.

reactant | lithium chloride | 71.6 mg | [Cl-].[Li+]
reactant | ethyl 2-diethylphosphonobutanoate | 426 mg | C(C)OP(=O)(OCC)C(C(=O)OCC)CC | C10H21O5P
reactant | (4S,5R)-3-benzyloxycarbonyl-2,2-dimethyl-5-formyl-4-isobutyloxazolidine | 450 mg | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=O)(C)C | C18H25NO4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.6 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
product | ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-ethyl-2-propenoate | 518 mg | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)OCC)CC)(C)C | C24H35NO5
